US04434101
A 1.4 ml. portion of n-butyllithium (1.6 M solution in hexane) was added to a solution of 1.4 g (2.74 mmol) of n-dodecyltriphenylphosphonium bromide in 5.5 ml of 2:1 tetrahydrofuran-hexamethylphosphorictriamide, at -78° C., under argon. The solution turned orange-red in color. To this solution was then added 0.350 g (1.77 mmoles) of (Z)-8-oxo-7,7-dimethyl-5-octenoic acid methyl ester dissolved in 1 ml of tetrahydrofuran, using a syringe. The reaction mixture was stirred for 30 minutes at -78° C. and an additional 45 minutes at 0° C. The product was isolated by ether extraction using the conventional workup procedure and then chromatographed on silica gel. Hexane-ether (19:1) eluted 0.600 g (97%) of (Z,Z)-7,7-dimethyl-5,8-eicosadienoic acid methyl ester. This material was dissolved in 6 ml of methanol and treated with 0.6 ml of 5% aqueous potassium hydroxide. After stirring at room temperature for 17 hours, 3 ml of the methanol was evaporated in vacuo. The remaining solution was acidified with oxalic acid and the product was extracted with ether. The ether extracts were washed with brine, dried over MgSO4 and the solvent evaporated at reduced pressure. Purification of the crude acid on a silica gel column provided 0.292 g (50.7%) of (Z,Z)-7,7-dimethyl-5,8-eicosadienoic acid (ca. 100% pure by GC analysis).

reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | n-dodecyltriphenylphosphonium bromide | 2.74 mmol, 1.4 g | [Br-].C(CCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | (Z)-8-oxo-7,7-dimethyl-5-octenoic acid methyl ester | 1.77 mmoles, 0.350 g | COC(CCC\C=C/C(C=O)(C)C)=O | C11H18O3
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran hexamethylphosphorictriamide | 5.5 ml | O1CCCC1.CN(P(N(C)C)(N(C)C)=O)C
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (Z,Z)-7,7-dimethyl-5,8-eicosadienoic acid | 0.292 g | CC(\C=C/CCCC(=O)O)(\C=C/CCCCCCCCCCC)C | C22H40O2
